US06221864B1
(S)-4-Benzyl-2-(N,N-dimethylaminomethyl)morpholine (78.9 g) was dissolved in ethanol (800 ml) and 10% palladium carbon (31.1 g) and hydrazine monohydrate (22.1 g) were added with stirring at room temperature. The mixture was refluxed with stirring for 1 hour. After cooling, the reaction mixture was filtered through celite and the solvent was distilled off to give 42.8 g of (R)-2-(N,N-dimethylaminomethyl)morpholine as a pale-yellow oil.

reactant | (S)-4-Benzyl-2-(N,N-dimethylaminomethyl)morpholine | 78.9 g | C(C1=CC=CC=C1)N1C[C@@H](OCC1)CN(C)C | C14H22N2O
reactant | hydrazine monohydrate | 22.1 g | O.NN
solvent | ethanol | 800 ml | C(C)O | C2H6O
catalyst | palladium carbon | 31.1 g | [C].[Pd]
product | (R)-2-(N,N-dimethylaminomethyl)morpholine | 42.8 g | CN(C)C[C@H]1CNCCO1 | C7H16N2O
